US05250554
Methyl 5-methyl-3-nitro-2-valerylaminobenzoate
To a mixture of methyl 5-methyl-2-valerylaminobenzoate (12.8 g) in acetic anhydride (5.9 g) was added dropwise, while stirring under ice-cooling, fuming nitric acid (6.7 ml), followed by stirring for 3 hours. To the reaction mixture was added ice water, which was extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium bicarbonate and water, which was then dried. The solvent was evaporated to dryness, and the residue was purified by column chromatography on silica gel. Crystals thus obtained were recrystallized from isopropyl ether gave colorless crystals (8.5 g, 60%), m.p. 59-60° C.

reactant | methyl 5-methyl-2-valerylaminobenzoate | 12.8 g | CC=1C=CC(=C(C(=O)OC)C1)NC(CCCC)=O | C14H19NO3
reactant | nitric acid | 6.7 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 5.9 g | C(C)(=O)OC(C)=O | C4H6O3
product | Methyl 5-methyl-3-nitro-2-valerylaminobenzoate | 8.5 g, 60% | CC=1C=C(C(=C(C(=O)OC)C1)NC(CCCC)=O)[N+](=O)[O-] | C14H18N2O5
